US04478842
A mixture of 578 mg of 1-(4-cyanobutyl)-3-methyl-2-(3-pyridyl)indole, 173 mg of sodium azide, 142 mg of ammonium chloride and 5 mg of lithium chloride in 2 ml of DMF is heated at 120° overnight. After cooling the mixture is filtered and the filtrate diluted with ca. 25 ml of water. After the pH is adjusted to 10-11 with 3 N NaOH, the solution is washed with ether to remove unreacted nitrile. The aqueous phase is adjusted to pH 5-6 with 2 N HCl and extracted with ether. The ether extract is washed with water, dried over MgSO4 and concentrated in vacuo. The solid residue is slurried in petroleum ether and collected to give 1-[4-(5-tetrazolyl)-butyl]-3-methyl-2-(3-pyridyl)indole, m.p. 177°-179°.

reactant | 1-(4-cyanobutyl)-3-methyl-2-(3-pyridyl)indole | 578 mg | C(#N)CCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C19H19N3
reactant | sodium azide | 173 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 142 mg | [Cl-].[NH4+]
reactant | lithium chloride | 5 mg | [Cl-].[Li+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-[4-(5-tetrazolyl)-butyl]-3-methyl-2-(3-pyridyl)indole | N1N=NN=C1CCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C19H20N6
